US07585875B2
A mixture of 980 mg (3.90 mmol) of 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one, 1.45 g (4 mmol) of N-Boc-piperazine and 100 mg of NaI in 10 ml of MeOH was stirred at 50-70° C. for 5 hours. The residue obtained after evaporation of the solvent was purified on an Al2O3 column. The fractions containing purified product were titrated with 4N HCl-dioxane to obtain a precipitate. Recrystallization from isopropanol/ether produced 150 mg of 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-(piperazin-1-yl)propan-1-one hydrochloride. Compound 1037.

reactant | 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 3.90 mmol, 980 mg | ClC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C13H15ClN2O
reactant | N-Boc-piperazine | 4 mmol, 1.45 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaI | 100 mg | [Na+].[I-]
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-(piperazin-1-yl)propan-1-one hydrochloride | 150 mg | Cl.C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)N1CCNCC1)=O | InChI=1S/C17H24N4O.ClH/c1-12(2)16-15(14-6-4-5-9-21(14)19-16)17(22)13(3)20-10-7-18-8-11-20;/h4-6,9,12-13,18H,7-8,10-11H2,1-3H3;1H
